US09447052B2
Preparation of (4-Oxo-2-thioxo-2,3,4,5,6,7-hexahydro-1H-cyclopenta[d]pyrimidin-1-yl)acetic acid
Sodium ({2-[(Methyloxy)carbonyl]-1-cyclopenten-1-yl}amino)acetate (60 g) and sodium thiocyanate (26.6 g) were stirred in N-methylpyrrolidinone (240 ml) and water (2.94 ml) under a nitrogen atmosphere. Chlorotrimethylsilane (73.8 g) was added and the mixture heated to 117±3° C. After 3 hours at this temperature the reaction mixture was cooled to 90° C. and water (480 ml) was added. The mixture was cooled to 2° C. and the product isolated by filtration. It was washed with water (2×120 ml) then acetone (2×60 ml) and dried at 60° C. in an oven under reduced pressure to yield the title compound as an off-white solid (50.69 g, 83%). 1H NMR (d6 DMSO) δ 2.00 (2H, quintet), 2.60 (2H, t), 2.87 (2H, t), 4.95 (2H, broad s), 12.57 (1H, broad s), 13.26 (1H, broad s).

reactant | Sodium ({2-[(Methyloxy)carbonyl]-1-cyclopenten-1-yl}amino)acetate | 60 g | COC(=O)C1=C(CCC1)NCC(=O)[O-].[Na+]
reactant | sodium thiocyanate | 26.6 g | [S-]C#N.[Na+]
reactant | water | 2.94 ml | O | H2O
reactant | Chlorotrimethylsilane | 73.8 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | 480 ml | O | H2O
solvent | N-methylpyrrolidinone | 240 ml | CN1C(CCC1)=O | C5H9NO
product | (4-Oxo-2-thioxo-2,3,4,5,6,7-hexahydro-1H-cyclopenta[d]pyrimidin-1-yl)acetic acid | 50.69 g, 83% | O=C1C2=C(N(C(N1)=S)CC(=O)O)CCC2 | C9H10N2O3S
